US05380819
(Synthesis example of phthalic anhydride group-containing PATE)
Then, 1116.5 g (7.59 moles) of p-dichlorobenzene, 1540.2 g of NMP and 32.7 g of water were fed to react the contents at a temperature of 220° C. for 4.5 hours. Thereafter, 282 g (15.7 moles) of water, 175.9 g (0.790 mole) of sodium hydrogen 4-chlorophthalate and 31.32 g (0.783 mole) of sodium hydroxide were additionally introduced under pressure in the autoclave. The contents were heated up to 255° C. to react them for 5 hours.

reactant | p-dichlorobenzene | 7.59 moles, 1116.5 g | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
reactant | sodium hydrogen 4-chlorophthalate | 0.790 mole, 175.9 g | ClC=1C=C(C(C(=O)O)=CC1)C(=O)[O-].[Na+]
reactant | sodium hydroxide | 0.783 mole, 31.32 g | [OH-].[Na+]
solvent | water | 32.7 g | O | H2O
solvent | NMP | 1540.2 g | CN1CCCC1=O | C5H9NO
solvent | water | 15.7 moles, 282 g | O | H2O
product | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
